US07955664B2
800 mg (1.68 mmol) of (R)-6,8-difluoro-3-[5-((R)-6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]chroman are dissolved in 30 ml of THF, and 1.7 ml (2.38 mmol) of a 1.4 M solution of s-butyllithium in cyclohexane are added at −50° C. The batch is warmed at −25° C. for 5 min, left to stir at −70° C. for 2 h, and a solution of 400 mg (2.21 mmol) of p-toluenesulfonyl cyanide in 10 ml of THF is subsequently added at such a rate that the temperature does not exceed −65° C. After 1 h, the batch is allowed to thaw, diluted with ether and washed with dil. hydrochloric acid. The org. phase is dried over sodium sulfate and evaporated, and the crude product is chromatographed on silica gel with toluene, giving (R)-6,8-difluoro-3-[5-((R)-6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]chroman-7-carbonitrile as colourless crystals of m.p. 111° C.

reactant | (R)-6,8-difluoro-3-[5-((R)-6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]chroman | 1.68 mmol, 800 mg | FC=1C=C2C[C@H](COC2=C(C1)F)C1OCC(CO1)C1=C(C=C2C[C@H](COC2=C1)CCCCC)F | C27H31F3O4
reactant | s-butyllithium | C(C)(CC)[Li]
reactant | p-toluenesulfonyl cyanide | 2.21 mmol, 400 mg | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (R)-6,8-difluoro-3-[5-((R)-6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]chroman-7-carbonitrile | FC=1C=C2C[C@H](COC2=C(C1C#N)F)C1OCC(CO1)C1=C(C=C2C[C@H](COC2=C1)CCCCC)F | C28H30F3NO4
